US03954757
A mixture of 6.4 g indole-2-carboxylic acid in 25 ml methanol and 4.6 g 1,4,5,6-tetrahydro-2-pyrimidinethiol in 50 ml methanol is added to a well-stirred solution of 10.1 g iodine and 16.3 g potassium iodide in 50 ml water. The mixture is stirred at room temperature for 11/2 hours, and cooled. The crystalline product is filtered off. A second yield is obtained by concentrating the filtrate to a small volume and cooling. The combined product is recrystallised from hot water to give 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide melting at 252°.

reactant | indole-2-carboxylic acid | 6.4 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 4.6 g | N1C(=NCCC1)S | C4H8N2S
reactant | iodine | 10.1 g | II | I2
reactant | potassium iodide | 16.3 g | [I-].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide | I.N1C(=NCCC1)SC1=C(NC2=CC=CC=C12)C(=O)O | InChI=1S/C13H13N3O2S.HI/c17-12(18)10-11(19-13-14-6-3-7-15-13)8-4-1-2-5-9(8)16-10;/h1-2,4-5,16H,3,6-7H2,(H,14,15)(H,17,18);1H
